US05889026
N-(4-{2-[4-(4-Chloro-benzyl)-4-hydroxy-piperidin-1 -yl]-ethoxy}-phenyl)-methanesulfonamide hydrochloride
The title compound, m.p. 74°-77° C. and MS: m/e=439.4 (M+H+), was prepared from 4-(4-chloro-benzyl)-piperidin-4-ol and N-[4-(2-bromoethoxy)-phenyl]-methansulfonamide.

reactant | 4-(4-chloro-benzyl)-piperidin-4-ol | ClC1=CC=C(CC2(CCNCC2)O)C=C1 | C12H16ClNO
reactant | N-[4-(2-bromoethoxy)-phenyl]-methansulfonamide | BrCCOC1=CC=C(C=C1)NS(=O)(=O)C | C9H12BrNO3S
product | N-(4-{2-[4-(4-Chloro-benzyl)-4-hydroxy-piperidin-1 -yl]-ethoxy}-phenyl)-methanesulfonamide hydrochloride | Cl.ClC1=CC=C(CC2(CCN(CC2)CCOC2=CC=C(C=C2)NS(=O)(=O)C)O)C=C1 | InChI=1S/C21H27ClN2O4S.ClH/c1-29(26,27)23-19-6-8-20(9-7-19)28-15-14-24-12-10-21(25,11-13-24)16-17-2-4-18(22)5-3-17;/h2-9,23,25H,10-16H2,1H3;1H
